US09376449B2
To a mixture of 7-fluoro-6-methoxy-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-1-one (780 mg), ethanol (5.00 mL), and water (5.00 mL) was added potassium hydroxide (1.58 g), followed by stirring at 80° C. overnight. Potassium hydroxide (1.58 g) was added to the reaction mixture, followed by stirring at 100° C. for 6 hours. After cooling to room temperature, the solvent was evaporated under reduced pressure. The obtained residue was dissolved in water (10.0 mL), to the mixture was added acetic acid (3.00 mL), and the precipitated solid was collected by filtration and dried under reduced pressure to obtain 3-(2-aminoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid (607 mg) as a reddish brown solid.

reactant | 7-fluoro-6-methoxy-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-1-one | 780 mg | FC1=C(C=C2C3=C(NC2=C1)C(NCC3)=O)OC | C12H11FN2O2
reactant | ethanol | 5.00 mL | C(C)O | C2H6O
reactant | potassium hydroxide | 1.58 g | [OH-].[K+]
reactant | Potassium hydroxide | 1.58 g | [OH-].[K+]
solvent | water | 5.00 mL | O | H2O
product | 3-(2-aminoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid | 607 mg | NCCC1=C(NC2=CC(=C(C=C12)OC)F)C(=O)O | C12H13FN2O3
